US04634710
32.9 g of (4-ethoxy-3,5-dimethyl-2-pyridyl)methyl acetate were dissolved in 190 ml of ethanol. 95 ml of 3N sodium hydroxide solution were then added dropwise thereto at 0° and the mixture was stirred at room temperature for a further 3 hours. The ethanol was subsequently removed in vacuo and the residual aqueous solution was extracted three times with 200 ml of methylene chloride. The organic extracts were dried over sodium sulfate and evaporated in vacuo. The residue crystallized from petroleum ether and there was obtained 4-ethoxy-3,5-dimethyl-2-pyridylmethanol of melting point 58°-59°.

reactant | (4-ethoxy-3,5-dimethyl-2-pyridyl)methyl acetate | 32.9 g | C(C)(=O)OCC1=NC=C(C(=C1C)OCC)C | C12H17NO3
reactant | sodium hydroxide | 3N, 95 ml | [OH-].[Na+]
solvent | ethanol | 190 ml | C(C)O | C2H6O
product | 4-ethoxy-3,5-dimethyl-2-pyridylmethanol | C(C)OC1=C(C(=NC=C1C)CO)C | C10H15NO2
